US04596870
1-(N-Acetyl-N-phenylamino)methyl-5-chloropyrimidin-2-one
5-Chloropyrimidin-2-one hydrochloride (3.8 mmol) and triethylamine (7.6 mmol) was stirred together in CH2Cl2 (30 ml) for 10 minutes before a solution of N-chloromethyl acetanilide (see Preparation 16) (3.8 mmol) in CH2Cl2 (5 ml) was added. The mixture was stirred at 40° C. for 2 hours before the solvent was distilled off and the residue washed with water and ether. Yield 0.3 g, (28%) M.p. 150°-155° C. (decomp) (CH2Cl2 / pet. ether) 1H NMR (CDCl3, δ): 1.90 (CH3), 5.60 (CH2), 6.9-7.4 (Ph), 8.18 and 8.42 (H-4, H-6, J3 Hz). IR (KBr) 1670-1680 cm-1 (CO).

reactant | 5-Chloropyrimidin-2-one hydrochloride | 3.8 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | triethylamine | 7.6 mmol | C(C)N(CC)CC | C6H15N
reactant | N-chloromethyl acetanilide | 3.8 mmol | ClCN(C1=CC=CC=C1)C(C)=O | C9H10ClNO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-(N-Acetyl-N-phenylamino)methyl-5-chloropyrimidin-2-one | C(C)(=O)N(C1=CC=CC=C1)CN1C(N=CC(=C1)Cl)=O | C13H12ClN3O2
